US09415037B2
Compound 183: Cyclopropanecarboxylic acid (5-{4-[6-(2H-tetrazol-5-yl)-pyridin-3-ylmethoxy]-phenyl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide
A solution of cyclopropanecarboxylic acid {5-[4-(6-cyano-pyridin-3-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (143 mg, 0.35 mmol, 1 equiv), sodium azide (46 mg, 0.7 mmol, 2 equiv), ammonium chloride (38 mg, 0.7 mmol, 2 equiv) was stirred at 0° C. under nitrogen for 30 minutes. Afterwards the mixture was subjected for 100° C. for 16 hours. The crude of the reaction was diluted with ethyl acetate and washed with water. The organic phase was dried over MgSO4, filtered, and dried under vacuum. The crude was diluted with DMSO and submitted for preparative HPLC purification: UPLC system (XBridge™ Prep C18, 5 μm, 19×100 mm column); 8 min LC; flow: 20 mL/min; gradient: from 30% to 70% acetonitrile in water 0.1% TFA; to afford the final pure product (9 mg, 6% yield).

reactant | cyclopropanecarboxylic acid {5-[4-(6-cyano-pyridin-3-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | 0.35 mmol, 143 mg, 1 equiv | C(#N)C1=CC=C(C=N1)COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C23H18N6O2
reactant | sodium azide | 0.7 mmol, 46 mg, 2 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.7 mmol, 38 mg, 2 equiv | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cyclopropanecarboxylic acid (5-{4-[6-(2H-tetrazol-5-yl)-pyridin-3-ylmethoxy]-phenyl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | 9 mg, 6% yield | N=1NN=NC1C1=CC=C(C=N1)COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C23H19N9O2
